US04061647
3-Ethyl-4-(3,4-dimethyl-5-sulfamoylphenyl)-2-isobutylimino-1,3-thiazolidine-4-ol-hydrobromide
was obtained in a manner analogous to the method described in Example 6 from 3.1 g of 2-bromo-3',4'-dimethyl-5'-sulfamoylacetophenone and 1.7 g of 1-ethyl-3-isobutyl-thiourea. M.p. 145° C (decomposition).

reactant | 2-bromo-3',4'-dimethyl-5'-sulfamoylacetophenone | 3.1 g | BrCC(=O)C1=CC(=C(C(=C1)S(N)(=O)=O)C)C | C10H12BrNO3S
reactant | 1-ethyl-3-isobutyl-thiourea | 1.7 g | C(C)NC(=S)NCC(C)C | C7H16N2S
product | 3-Ethyl-4-(3,4-dimethyl-5-sulfamoylphenyl)-2-isobutylimino-1,3-thiazolidine-4-ol-hydrobromide | Br.C(C)N1C(SCC1(O)C1=CC(=C(C(=C1)S(N)(=O)=O)C)C)=NCC(C)C | InChI=1S/C17H27N3O3S2.BrH/c1-6-20-16(19-9-11(2)3)24-10-17(20,21)14-7-12(4)13(5)15(8-14)25(18,22)23;/h7-8,11,21H,6,9-10H2,1-5H3,(H2,18,22,23);1H
